### ISSUE TITLE
`simp`, `omega` in `module` cause type mismatch in kernel

### ISSUE THREAD

**Issue by datokrat** [leanprover/lean4#10546]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

A call to `simp` followed by `omega` in a `module` leads to an "application type mismatch" error in the kernel. The problem seems to be related to `Int8.reduceToInt`.

### Steps to Reproduce

Run this:

```lean
module

-- import all Init.Data.SInt.Basic -- solves the problem

/--
error: (kernel) application type mismatch
  Eq.trans
    (congrArg (fun x => (Int8.ofInt x).toInt)
      (congr (congrArg (fun x => HAdd.hAdd ↑x) (UInt8.toNat_add x 1)) (Int8.toInt_neg 128)))
    Int8.toInt_ofInt
argument has type
  (Int8.ofInt (↑(x.toNat + 1) % ↑(2 ^ 8) + (- -128).bmod (2 ^ 8))).toInt =
    (↑(x.toNat + 1) % ↑(2 ^ 8) + (- -128).bmod (2 ^ 8)).bmod Int8.size
but function has type
  (Int8.ofInt (↑((x.toNat + UInt8.toNat 1) % 2 ^ 8) + (-Int8.toInt 128).bmod (2 ^ 8))).toInt =
      (↑(x.toNat + 1) % ↑(2 ^ 8) + (- -128).bmod (2 ^ 8)).bmod Int8.size →
    (Int8.ofInt (↑(x + 1).toNat + (-128).toInt)).toInt =
      (↑(x.toNat + 1) % ↑(2 ^ 8) + (- -128).bmod (2 ^ 8)).bmod Int8.size
-/
#guard_msgs in
example {x : UInt8}
    (h : (Int8.ofInt (↑(x + 1).toNat + Int8.minValue.toInt)).toInt = Int8.minValue.toInt) :
    256 ∣ ↑x.toNat + 1 := by
  -- squashed form of: simp [Int.natCast_emod, Int.bmod_eq_iff] at h ⊢
  -- reducing `Int8.reduceToInt` solves the problem
  simp only [UInt8.toNat_add, UInt8.reduceToNat, Int.natCast_emod, Int.cast_ofNat_Int, Int8.toInt_neg,
    Int8.reduceToInt, Int8.toInt_ofInt, Nat.zero_lt_succ, Int.bmod_eq_iff] at h ⊢
  omega
```

**Expected behavior:**

Either `omega` or `simp` themselves fail, or they succeed and generate a proof term the kernel is happy with.

**Actual behavior:**

`simp` and `omega` together create a proof term that does not type check in the kernel.

(Note that omega` does not see anything related to `Int8`, so that `omega` itself does not really seem to be the problem. However, the error also goes away if `omega` is replaced with `sorry`.)

### Versions

```text
Lean 4.25.0-nightly-2025-09-24
Target: x86_64-unknown-linux-gnu
````

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
`Int.reducetoInt` is a simproc using `Int8.toInt`. Have you tried adding `@[expose]` to `def Int8.toInt (i : Int8) : Int := i.toBitVec.toInt`?

**Comment by datokrat** [comment]
That indeed solves the MWE, but it turns out that in the actual situation I had, I need to expose lots of defs.

<details>
<summary>not so minimal working example</summary>

```lean
module

prelude
public import Init.Data.SInt
import Init.Data.Range.Polymorphic.UInt

open Std Std.PRange

private def UInt8.toInt8Mono (a : UInt8) : Int8 :=
  Int8.ofInt (↑a.toNat + Int8.minValue.toInt)

instance : UpwardEnumerable Int8 where
  succ? i := if i + 1 = Int8.minValue then none else some (i + 1)
  succMany? n i :=
    have := i.minValue_le_toInt
    if h : i.toInt + n ≤ Int8.maxValue.toInt then some (.ofIntLE _ (by omega) h) else none

/--
warning: declaration uses 'sorry'
---
error: (kernel) application type mismatch
  Eq.trans (Int8.toInt_neg 128) (congrArg (fun x => x.bmod 256) (Int.neg_neg 128))
argument has type
  (fun x => x.bmod 256) (- -128) = (fun x => x.bmod 256) 128
but function has type
  (-Int8.toInt 128).bmod (2 ^ 8) = Int.bmod 128 256 → (-128).toInt = Int.bmod 128 256
-/
#guard_msgs in
private theorem succ?_toInt8Mono {x : UInt8} :
    UpwardEnumerable.succ? x.toInt8Mono = UInt8.toInt8Mono <$> UpwardEnumerable.succ? x := by
  simp [succ?]
  split <;> rename_i h
  · rw [if_pos]
    · simp [-Int8.reduceToInt]
    · simp [UInt8.toInt8Mono, ← UInt8.toNat_inj, ← Int8.toInt_inj, ← Int.ofNat_inj,
        Int.natCast_emod, Int.emod_eq_iff, Int.bmod_eq_iff] at h ⊢
      omega
  · sorry
```
</details>

In this longer example, I also need to expose `Int8.neg`, `Int8.toInt`, `Int8.ofInt`, `Int8.toBitVec` and (for dependency reasons) `Int8.ofUInt8`.
